US09428470B2
C) Di-tert-butyl N-(3-(2-(5-(tert-butoxycarbonyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)-L-aspartate
A mixture of 3-(2-(5-(tert-butoxycarbonyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid (214 mg), di-tert-butyl L-aspartate hydrochloride (161 mg), WSC (89 mg), HOBt (77 mg), triethylamine (0.080 mL), and DMF (2 mL) was stirred at room temperature for 3 days. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (154 mg).

reactant | 3-(2-(5-(tert-butoxycarbonyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoic acid | 214 mg | C(C)(C)(C)OC(=O)C1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)O)CC(=O)OC(C)(C)C | C23H31NO8
reactant | di-tert-butyl L-aspartate hydrochloride | 161 mg | Cl.N[C@@H](CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C
reactant | WSC | 89 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 77 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.080 mL | C(C)N(CC)CC | C6H15N
product | Di-tert-butyl N-(3-(2-(5-(tert-butoxycarbonyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)-L-aspartate | 154 mg | C(C)(C)(C)OC(=O)C1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)N[C@@H](CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C35H52N2O11
